US05455273
trans-N-tert. Butoxycarbonyl-N-methyl-4-(4-hydroxymethylphenyl)cyclohexylamine
15.3 g of trans-4-(4-hydroxymethylphenyl)-N-methylcyclohexylamine are reacted in 250 ml of tetrahydrofuran with 16.7 g of di-tert.-butyl pyrocarbonate. 17.7 g of the title compound are obtained, melting point 111°-113° C.

reactant | trans-4-(4-hydroxymethylphenyl)-N-methylcyclohexylamine | 15.3 g | OCC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)NC | C14H21NO
reactant | di-tert.-butyl pyrocarbonate | 16.7 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | trans-N-tert. Butoxycarbonyl-N-methyl-4-(4-hydroxymethylphenyl)cyclohexylamine | 17.7 g | C(C)(C)(C)OC(=O)N(C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)CO | C19H29NO3
